US06610707B1
tert-Butyl (Z)-(2S)-2-[Amino([2-(1-[(benzyloxy)carbonyl]-4-piperidyloxy)acetyl]oxyimino)methyl]-1-piperidinecarboxylate
The title compound was prepared by a similar method to Preparation 5 from tert-butyl (Z)-(2S)-2-[amino(hydroxyimino)methyl]-1-piperidinecarboxylate [see Preparation 4] and 2-(1-[(benzyloxy)carbonyl]-4-piperidyloxy)acetic acid [see Preparation 92] to afford tert-butyl (Z)(2S)-2-[amino([2-(1-[(benzyloxy)carbonyl]-4 piperidyloxy)acetyl]oxyimino)methyl]-1-piperidinecarboxylate as a brown oil.

reactant | tert-butyl (Z)-(2S)-2-[amino(hydroxyimino)methyl]-1-piperidinecarboxylate | N\C(\[C@H]1N(CCCC1)C(=O)OC(C)(C)C)=N/O | C11H21N3O3
reactant | 2-(1-[(benzyloxy)carbonyl]-4-piperidyloxy)acetic acid | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OCC(=O)O | C15H19NO5
product | tert-butyl (Z)(2S)-2-[amino([2-(1-[(benzyloxy)carbonyl]-4 piperidyloxy)acetyl]oxyimino)methyl]-1-piperidinecarboxylate | N\C(\[C@H]1N(CCCC1)C(=O)OC(C)(C)C)=N/OC(COC1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O | C26H38N4O7
